US08377968B2
E. Synthesis of 3,5-dichloro-N-((1-(2-(cyclopropanesulfonamido)ethyl)piperidin-4-yl)methyl)benzamide (Compound 131)
To a solution of 3,5-dichlorobenzoic acid (23 mg, 0.12 mmol) in DMF (2 mL) was added DIPEA (0.1 mL, 0.6 mmol), N-(2-(4-(aminomethyl) piperidin-1-yl)ethyl)-1,1,1-trifluoromethanesulfonamide dihydrochloride salt (40 mg, 0.12 mmol) and HATU (60 mg, 0.15 mmol). The reaction mixture was stirred at room temperature overnight. The organic layer was washed with sat. NaHCO3 aq. (8 mL), dried over Na2SO4, and concentrated to give crude product which was subsequently purified by High Throughput Purification System (HiTOPs).

reactant | 3,5-dichlorobenzoic acid | 0.12 mmol, 23 mg | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | DIPEA | 0.6 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(2-(4-(aminomethyl) piperidin-1-yl)ethyl)-1,1,1-trifluoromethanesulfonamide dihydrochloride salt | 0.12 mmol, 40 mg | Cl.Cl.NCC1CCN(CC1)CCNS(=O)(=O)C(F)(F)F
reactant | HATU | 0.15 mmol, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3,5-dichloro-N-((1-(2-(cyclopropanesulfonamido)ethyl)piperidin-4-yl)methyl)benzamide | ClC=1C=C(C(=O)NCC2CCN(CC2)CCNS(=O)(=O)C2CC2)C=C(C1)Cl | C18H25Cl2N3O3S
